US06794395B1
(3) 3-(Z)-{1-[4-(aminocarbonylmethyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 3-(Z)-{1-[4-(carboxymethyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone and N-hydroxy-succinimide-ammonium salt

reactant | 3-(Z)-{1-[4-(carboxymethyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone | C(=O)(O)CC1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C21H22N2O5
reactant | N-hydroxy-succinimide-ammonium salt | [NH4+].ON1C(CCC1=O)=O
product | 3-(Z)-{1-[4-(aminocarbonylmethyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone | NC(=O)CC1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C21H23N3O4
